US04138244
N-(dimethylamino)-3-chloro-2,6-dinitro-4-trifluoromethylaniline
To 20.0 g. (0.065 mole) of 2,4-dichloro-3,5-dinitrobenzotrifluoride and 300 ml. of cyclohexane in a 500 ml. roundbottom flask equipped with a stirrer and dropping funnel was added 7.86 g. (0.13 mole) of 1,1-dimethylhydrazine at ambient temperature. The addition was drop-wise over a period of about 20 minutes. Stirring was continued for 22 hours at room temperature. The resultant mixture was filtered and the insoluble solid then stirred with 300 ml. of water for one hour to dissolve the hydrazine hydrochloride. The insoluble product was isolated by filtration and washed with water. Recrystallization from 95% ethanol gave 18.3 g. (85%) of the desired product as a yellow solid, m.p. 130° - 131° C.

reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | 0.065 mole | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
reactant | 1,1-dimethylhydrazine | 0.13 mole | CN(N)C | C2H8N2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N-(dimethylamino)-3-chloro-2,6-dinitro-4-trifluoromethylaniline | 85% | CN(NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])C | C9H8ClF3N4O4
